US07160888B2
Synthesis of 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-4-hydroxy-3,3-dimethyl-3,4-dihydro-1H-[1,8]naphthyridin-2-one
To a solution of 7-{4-[4-(2,3-dichloro-phenyl)-piperazin-1-yl]-butoxy}-3,3-dimethyl-1H-[1,8]naphthyridine-2,4-dione (0.132 g, 0.268 mmol) in THF (2 mL), cooled to 0° C. was added NaBH4 (0.013 g, 0.335 mmol). The reaction was warmed to room temperature and stirred for 3 hours. The reaction was quenched with saturated NaHCO3 and partitioned between EtOAc and water. The organic layer was washed with brine, dried over Na2SO4 and concentrated to give the title compound as a white solid (0.095 g, 0.192 mmol, 57%). MS: APCI: M+1: 493.1 (Exact Mass: 492.17).

reactant | 7-{4-[4-(2,3-dichloro-phenyl)-piperazin-1-yl]-butoxy}-3,3-dimethyl-1H-[1,8]naphthyridine-2,4-dione | 0.268 mmol, 0.132 g | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCOC1=CC=C2C(C(C(NC2=N1)=O)(C)C)=O | C24H28Cl2N4O3
reactant | NaBH4 | 0.335 mmol, 0.013 g | [BH4-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-butoxy}-4-hydroxy-3,3-dimethyl-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 0.192 mmol, 0.095 g, 57% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCOC1=CC=C2C(C(C(NC2=N1)=O)(C)C)O | C24H30Cl2N4O3
